US05786358
2-{4-[2-(2-Amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoylamino}bicyclo[2.2.1]heptane-2-carboxylic Acid Ammonium Salt
After flame drying a 15-mL two-neck round bottom flask under argon, 0.20 g (0.57 mmol) of 4-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-benzoic acid hydrochloride was suspended in 2 mL of anhydrous N,N-dimethylformamide, followed by the addition of 0.19 mL (1.7 mmol) of 4-methylmorpholine. After stirring the reaction at room temperature for 15 minutes, 0.15 g (0.86 mmol) of 2-chloro-4,6-dimethoxy-1,3,5-triazine was added. The reaction was stirred at room temperature for 30 minutes and 0.134 g (0.86 mmol) of 2-aminonorbornane-2-carboxylic acid was added. The reaction mixture was stirred at room temperature for 3 hours. The volatiles were concentrated in vacuo, and the residue was treated with 50 mL of H20, and the white solid was filtered and dried in a vacuum oven at 60° C. The crude solid was purified using rotor chromatography on a 2 mm Chromatotron® silica gel plate, and eluted with a gradient of 20% CH3OH/CHCl3 to 75:25:1 CHCl3 /CH3OH/NH4OH. The correct fractions were combined and removed in vacuo to give 0.025 g (9%) of 2-{4-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoylamino}bicyclo[2.2.]heptane-2-carboxylic acid ammonium salt as a white solid. Rf=0.30 (6/3.2/0.8) (CHCl3 /CH3OH/NH4OH); m.p. 241° C. (foam); IR (KBr, cm-1)=615, 647, 772, 1019, 1121, 1218, 1307, 1370, 1477, 1538, 1641, 2952, 3344; UV (0.1N NaOH) λmax =273, 241, 218 (ε=9839, 14408, 21458); Exact mass: Calcd=452.2298; Found=452.2338 5; 1H NMR (300 MHz, DMSOd6) δ1.26-1.37 (m, 2H), 1.48-1.81 (m, 7H), 1.84-1.88 (m, 4H), 2.63-2.83 (m, 4H), 3.19-3.27 (m, 2H), 5.97 (s, 2H), 6.27 (S, 1H), 7.31 (d, J=8.1 Hz, 2H), 7.78 (d, J=7.9 Hz, 2H), 8.53 (s, 1H).

reactant | 4-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-benzoic acid hydrochloride | 0.57 mmol, 0.20 g | Cl.NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(C(=O)O)C=C2)O
reactant | 4-methylmorpholine | 1.7 mmol, 0.19 mL | CN1CCOCC1 | C5H11NO
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 0.86 mmol, 0.15 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 2-aminonorbornane-2-carboxylic acid | 0.86 mmol, 0.134 g | NC1(C2CCC(C1)C2)C(=O)O | C8H13NO2
reactant | heptane-2-carboxylic acid ammonium salt | [NH4+].CC(CCCCC)C(=O)[O-]
reactant | KBr | [K+].[Br-]
reactant | NaOH | 0.1N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-{4-[2-(2-Amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoylamino}bicyclo[2.2.1]heptane-2-carboxylic Acid Ammonium Salt | [NH4+].NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(C(=O)NC1(C3CCC(C1)C3)C(=O)[O-])C=C2)O | InChI=1S/C24H29N5O4.H3N/c25-23-27-19-18(21(31)28-23)10-15(12-26-19)2-1-13-3-6-16(7-4-13)20(30)29-24(22(32)33)11-14-5-8-17(24)9-14;/h3-4,6-7,14-15,17H,1-2,5,8-12H2,(H,29,30)(H,32,33)(H4,25,26,27,28,31);1H3
